US08471005B2
[2-Methoxy-4-(4-methyl-piperazin-1-yl)-phenyl]-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine
(7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[2-methoxy-4-(4-methyl-piperazin-1-yl)-phenyl]-amine: Into a 30 mL vial, [A] 2-Methoxy-4-(4-methyl-piperazin-1-yl)-phenylamine (1.08 g, 0.00490 mol), [B] 7-Bromo-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine (0.580 g, 0.00223 mol) and N-Methylpyrrolidinone (3.50 mL, 0.0363 mol) were added. The reaction mixture was heated at 145° C. for 2.5 hours. The solvent was removed under vacuum to give a solid. The solid was partitioned with water and DCM. The organic was separated, washed with Brine and dried over sodium sulfate. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The desired product was isolated via ISCO column chromatography with DCM and MeOH as eluant (3 to 10% methanol). The collected fractions afforded (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[2-methoxy-4-(4-methyl-piperazin-1-yl)-phenyl]-amine as a yellow solid (0.58 g, 62%). NMR 1H (DSMO-d6)-8.83 (s, 1H), 8.03 (d, 1H, J=8.76 Hz), 7.75 (s, 1H), 6.92 (d, 1H, J=4.58 Hz), 6.86 (d, 1H, J=4.68 Hz), 6.67 (d, 1H, J=2.24 Hz), 6.49 (dd, 1H, JJ=2.32, 6.44 Hz), 3.85 (s, 3H), 3.12 (t, 4H, J=4.64 Hz), 2.46 (t, 4H, J=4.84 Hz), 2.22 (s, 3H)

reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[2-methoxy-4-(4-methyl-piperazin-1-yl)-phenyl]-amine | BrC1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)N2CCN(CC2)C)OC | C18H21BrN6O
reactant | 2-Methoxy-4-(4-methyl-piperazin-1-yl)-phenylamine | 0.00490 mol, 1.08 g | COC1=C(C=CC(=C1)N1CCN(CC1)C)N | C12H19N3O
reactant | 7-Bromo-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | 0.00223 mol, 0.580 g | BrC1=CC=C2C=NC(=NN21)S(=O)C | C7H6BrN3OS
reactant | N-Methylpyrrolidinone | 0.0363 mol, 3.50 mL | CN1C(CCC1)=O | C5H9NO
product | [2-Methoxy-4-(4-methyl-piperazin-1-yl)-phenyl]-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | COC1=C(C=CC(=C1)N1CCN(CC1)C)NC1=NN2C(C=N1)=CC=C2C=2C=NC(=CC2)OC | C24H27N7O2
